US06563008B2
2,6-Dichloro-4′-hydroxy-(1,1′-biphenyl)-4-methanol
4.66 g of 3,5-dichlorobenzaldehyde is mixed with 0.23 g of paratoluenesulphonic acid, 3 ml of ethylene glycol and 40 ml of toluene. The reaction medium is heated under reflux for 2 hours, poured into a saturated solution of sodium bicarbonate and the aqueous phase is decanted. The organic phase is dried and evaporated under reduced pressure. 5.756 g of expected product is isolated in the form of an oil.

reactant | 3,5-dichlorobenzaldehyde | 4.66 g | ClC=1C=C(C=O)C=C(C1)Cl | C7H4Cl2O
reactant | paratoluenesulphonic acid | 0.23 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethylene glycol | 3 ml | C(CO)O | C2H6O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 2,6-Dichloro-4′-hydroxy-(1,1′-biphenyl)-4-methanol | 5.756 g | ClC1=C(C(=CC(=C1)CO)Cl)C1=CC=C(C=C1)O | C13H10Cl2O2
